US05229516
E. 6-Hydroxy-α-methyl carbazole-2-acetic acid
A mixture consisting of 6-hydroxy-α-methyl carbazole-2-acetic acid ethyl ester (5.0 g, 0.021 mol), potassium hydroxide (5.0 g, 0.089 mol), methanol (300 mL), and water (20 mL) is refluxed for 15 hours. The reaction mixture is cooled concentrated and acidified with a 1:1 solution of concentrated HCl and water to pH 1. The aqueous layer is extracted with ether (4×300 mL), washed with water (200 mL), brine (200 mL), dried over MgSO4, filtered and concentrated to give 2.6 g of product as a foam.

reactant | 6-hydroxy-α-methyl carbazole-2-acetic acid ethyl ester | 0.021 mol, 5.0 g | C(C)OC(C(C1=CC=2NC3=CC=C(C=C3C2C=C1)O)C)=O | C17H17NO3
reactant | potassium hydroxide | 0.089 mol, 5.0 g | [OH-].[K+]
reactant | methanol | 300 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 6-Hydroxy-α-methyl carbazole-2-acetic acid | 2.6 g | OC=1C=C2C=3C=CC(=CC3NC2=CC1)C(C(=O)O)C | C15H13NO3
